US04379154
A 33% (weight/volume) solution of methylamine in ethanol (6.5 cc) is added dropwise, in the course of 10 minutes and at a temperature between 34° C. and 37° C., to a solution of methyl 2-(pyrid-2-yl)-1,3-oxathiane-2-carbodithioate (17.5 g) in ethanol (60 cc). The reaction mixture is then stirred for 30 minutes at 2° C. The resulting crystals are filtered off, washed twice with petroleum ether (40 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. The product obtained (13.4 g) is dissolved in boiling ethanol (80 cc); decolourising charcoal (0.2 g) is added to the solution, which is filtered hot, and the filtrate is then cooled for 1 hour at a temperature of about 0° C. The resulting crystals are filtered off, washed twice with ethanol (20 cc in total) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 50° C. N-Methyl-2-(pyrid-2-yl)-1,3-oxathiane-2-carbothioamide (12 g), melting at 157° C., is thus obtained.

reactant | methylamine | CN | CH5N
reactant | methyl 2-(pyrid-2-yl)-1,3-oxathiane-2-carbodithioate | 17.5 g | N1=C(C=CC=C1)C1(OCCCS1)C(=S)SC | C11H13NOS3
reactant | charcoal | 0.2 g | C | CH4
solvent | ethanol | 6.5 cc | C(C)O | C2H6O
solvent | ethanol | 60 cc | C(C)O | C2H6O
solvent | ethanol | 80 cc | C(C)O | C2H6O
product | N-Methyl-2-(pyrid-2-yl)-1,3-oxathiane-2-carbothioamide | 12 g | CNC(=S)C1(OCCCS1)C1=NC=CC=C1 | C11H14N2OS2
